US06306860B1
Preparation of 6-[1-(3-nitro-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid
6-[1-(3-Nitro-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid methyl ester (10 g) was dissolved in methanol (75 ml) and with the addition of aqueous 1N-sodium hydroxide (75 ml), the mixture was stirred at 30° C for 2 hours. With the slow addition of 3N-hydrochloric acid for neutralization (pH=˜5), water (110 ml) was slowly added to the mixture for precipitate. After 2-hours stirring, the precipitate was filtered, washed with water and dried to give a desired compound of 8.66 g (yield: 90%).

reactant | 6-[1-(3-Nitro-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid methyl ester | 10 g | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1[N+](=O)[O-])=O | C17H17N5O5
reactant | hydrochloric acid | Cl | ClH
reactant | water | 110 ml | O | H2O
solvent | methanol | 75 ml | CO | CH4O
solvent | sodium hydroxide | 75 ml | [OH-].[Na+]
product | 6-[1-(3-nitro-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid | yield: 90% | [N+](=O)([O-])C=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C16H15N5O5
